US07244843B2
Step B. Preparation of (R)-1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine-2,5-dione
To a stirred solution of [benzyl-[2-tert-butoxycarbonylamino-3-(4-trifluoromethyl-phenyl)-propionyl]-amino]-acetic acid ethyl ester (1.5 g, 2.95 mmol) in dry CH2Cl2 (50 mL), 4N HCl in dioxane (25 mL, Aldrich) was added and stirred at room temperature for 2 h and then conc in vacuo. The rxn product was partitioned between CH2Cl2 (100 mL) and saturated NaHCO3 (20 mL). The organic layer was separated, dried over MgSO4 and conc in vacuo to give a clear oil. The oil was diluted in dichloroethane (50 mL) and stirred in 60° C. bath for 2 h to yield 1.02 g (95%) of the product as a off white solid. MS (ESI) 363 (M+H).

reactant | [benzyl-[2-tert-butoxycarbonylamino-3-(4-trifluoromethyl-phenyl)-propionyl]-amino]-acetic acid ethyl ester | 2.95 mmol, 1.5 g | C(C)OC(CN(C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)=O | C26H31F3N2O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | (R)-1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine-2,5-dione | 1.02 g, 95% | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H17F3N2O2
